US09227978B2
tert-Butyl 5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate
To a stirred mixture of tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (1.0 g, 4.71 mmol) in DCM (20 mL) at 0° C., Et3N (1.43 g, 14.1 mmol) was added. The mixture was stirred at 0° C. for 5 min, and then a solution of 2-chloroethanesulfonyl chloride (0.77 g, 4.71 mmol) in DCM (5 mL) was added dropwise. The resulting mixture was stirred at room temperature for 0.5 h. The reaction mixture was poured into water (20 mL) and extracted with DCM (30 mL×3). The combined organic layer was washed with brine (15 mL×3), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (10-50% ethyl acetate/petroleum ether) to afford the desired product (0.5 g, 35% yield) as a solid.

reactant | tert-butyl hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 4.71 mmol, 1.0 g | C1N(CC2C1CNC2)C(=O)OC(C)(C)C | C11H20N2O2
reactant | Et3N | 14.1 mmol, 1.43 g | CCN(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 4.71 mmol, 0.77 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | water | 20 mL | O | H2O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 5-(vinylsulfonyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.5 g, 35% yield | C(=C)S(=O)(=O)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C | C13H22N2O4S
